US04642365
Pyrocatechol (1.249 g, 11.35 mM) was dissolved in 42 ml of ether and, using 2.297 g (22.70 mM) of triethylamine and 1.849 g (11.35 mM) of ethyl dichlorophosphate, the reaction was carried out at -40° C. to -35° C. and the reaction mixture treated in the same manner as in Reference Example 1. There was obtained 2.159 g (95.0% yield) of ethyl o-phenylene phosphate as a colorless viscous oil.

reactant | Pyrocatechol | 11.35 mM, 1.249 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | triethylamine | 22.70 mM, 2.297 g | C(C)N(CC)CC | C6H15N
reactant | ethyl dichlorophosphate | 11.35 mM, 1.849 g | P(=O)(OCC)(Cl)Cl | C2H5Cl2O2P
solvent | ether | 42 ml | CCOCC | C4H10O
product | ethyl o-phenylene phosphate | 2.159 g, 95.0% yield | P1(=O)(OCC)OC2=C(C=CC=C2)O1 | C8H9O4P
